* D:\gitHub\Fuente-Conmutada\Simulaciones\LTSpice LMR64010\TI_LMR64010.asc
XU1 N001 N005 N002 N004 0 LMR64010_TRANS
R1 N001 N005 51k
C1 N001 0 2.2µ
L1 N001 N002 10µ
D1 N002 N003 RB561VM-40
R2 N004 0 13.3k
R3 N003 N004 205k
C2 N003 0 4.7µ
R4 N003 0 200
V1 N001 0 5
.model D D
.lib C:\Users\welcome\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.5m
.lib D:\prueba-borrar\LMR64010_TRANS.LIB
.backanno
.end
