* source BOOST CONVERTER
X_U1         N14781 N14781 N14601 N14573 0 LMR64010_TRANS
R_R1         N14573 N14560  205k TC=0,0 
R_R2         0 N14573  13.3k TC=0,0 
C_C1         0 N14781  2.2uF  TC=0,0 
C_C2         N14560 0  4.7uF  TC=0,0 
L_L1         N14781 N14601  10uH  
C_CF         N14573 N14560  120p  TC=0,0 
V_V1         N14781 0 5
R_R3         0 N14560  50 TC=0,0 
D_D3         N14601 N14560 MBR360 
